US08030499B2
Step 271-1: Synthesis of 3-(1,3-benzodioxol-4-yl)-4-chloro-3-hydroxy-1,3-dihydro-2H-indol-2-one
With 9.00 g of 4-bromo-1,3-benzodioxol and 1.81 g of 4-chloroisatin as starting materials, 1.33 g of the title compound was obtained by a similar method to Step 21-1.

reactant | 4-bromo-1,3-benzodioxol | 9.00 g | BrC1=CC=CC=2OCOC21 | C7H5BrO2
reactant | 4-chloroisatin | 1.81 g | ClC1=C2C(C(NC2=CC=C1)=O)=O | C8H4ClNO2
product | 3-(1,3-benzodioxol-4-yl)-4-chloro-3-hydroxy-1,3-dihydro-2H-indol-2-one | 1.33 g | O1COC2=C1C=CC=C2C2(C(NC1=CC=CC(=C21)Cl)=O)O | C15H10ClNO4
